US05227389
Ethyl 1-[4-ethoxybutyl]-4-phenyl-4-piperidinecarboxylate hydrochloride
Norpethidine (15.63 g, 67 mmol), 4-ethoxybutylchloride (10.67 g, 70 mmol), Na2CO3 (7.77 g, 73 mmol), KI (0.6 g) and acetonitrile (150 ml) were heated under reflux and stirring for 72 h. The mixture was filtered and the solvent removed. The residue was dissolved in diethyl ether, and the solution washed with water and dried (MgSO4). Destillation yielded 17.9 g of base boiling at 160°-163° C./0.05 mm Hg. B.p. acc. to J. Chem. Soc. 3062 (1958) 180° C./1 mm Hg. Hydrochloride m.p. 143°-145° C.

reactant | Norpethidine | 67 mmol, 15.63 g | CCOC(=O)C1(CCNCC1)C2=CC=CC=C2 | C14H19NO2
reactant | 4-ethoxybutylchloride | 70 mmol, 10.67 g | C(C)OCCCCCl | C6H13ClO
reactant | Na2CO3 | 73 mmol, 7.77 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Hydrochloride | Cl | ClH
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | Ethyl 1-[4-ethoxybutyl]-4-phenyl-4-piperidinecarboxylate hydrochloride | Cl.C(C)OCCCCN1CCC(CC1)(C(=O)OCC)C1=CC=CC=C1 | InChI=1S/C20H31NO3.ClH/c1-3-23-17-9-8-14-21-15-12-20(13-16-21,19(22)24-4-2)18-10-6-5-7-11-18;/h5-7,10-11H,3-4,8-9,12-17H2,1-2H3;1H
